US07727985B2
A 25 ml round-bottom flask with magnetic stirrer was charged with 6-chloro-7-ethylsulfanyl-9H-β-carbolin-8-ylamine (37.2 mg, 0.13 mmol) and 2-methylnicotinic acid (36.2 mg, 0.26 mmol) in 3 ml anhydrous pyridine. To the resulting light-orange mixture at RT was added solid 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (73.2 mg, 0.38 mmol) and the resulting reaction mixture was heated to 80° C. for 5 days. Next, the reaction mixture was cooled to RT and concentrated to afford a brown, viscous syrup. The syrup was dissolved in a minimal amount of MeOH (˜2 ml), slowly added to a 5:1 mixture of H2O/saturated sodium bicarbonate (˜20 ml), and stirred at RT for 2.5 hr. The resulting precipitated solid was collected via suction filtration, washed with 1:1 hexanes/diethyl ether (2×20 ml), and air-dried to afford 21.0 mg of N-(6-chloro-7-ethylsulfanyl-9H-β-carbolin-8-yl)-2-methyl-nicotinamide as a tan solid (˜38%). LCMS (ammonium acetate standard method) retention time=2.33 min. (M+=397; M−=395).

reactant | 6-chloro-7-ethylsulfanyl-9H-β-carbolin-8-ylamine | 0.13 mmol, 37.2 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1SCC)N | C13H12ClN3S
reactant | 2-methylnicotinic acid | 0.26 mmol, 36.2 mg | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.38 mmol, 73.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | H2O | ˜20 ml | O | H2O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | MeOH | ˜2 ml | CO | CH4O
product | N-(6-chloro-7-ethylsulfanyl-9H-β-carbolin-8-yl)-2-methyl-nicotinamide | 21.0 mg, ~38% | ClC=1C=C2C=3C=CN=CC3NC2=C(C1SCC)NC(C1=C(N=CC=C1)C)=O | C20H17ClN4OS
